US05625071
Example P3: Preparation of 3-(2-fluoroethoxy)-pyrid-2-ylsulfonamide (intermediate)
5.76 ml of 2-fluoroethanol are added dropwise, with cooling, to a suspension of 6.54 g of sodium hydride (55.6% NaH in oil) in 120 ml of tetrahydrofuran so that the temperature does not exceed 20° C. When the dropwise addition is complete, the reaction mixture is stirred at room temperature for 15 minutes and then a further solution of 10.56 g of 3-fluoro-pyrid-2-ylsulfonamide in 60 ml of tetrahydrofuran is added dropwise over a period of 10 minutes. The reaction solution is then stirred for 10 minutes at room temperature and for 2 hours at reflux before it is cooled and concentrated. For purification, the oil remaining is chromatographed on a silica gel column using ethyl acetate/hexane 4/1. Evaporation of the eluant yields a light-coloured oil which crystallises spontaneously, yielding 5.88 g of title product which melts at 122°-123° C.

reactant | 2-fluoroethanol | 5.76 ml | FCCO | C2H5FO
reactant | sodium hydride | 6.54 g | [H-].[Na+]
reactant | 3-fluoro-pyrid-2-ylsulfonamide | 10.56 g | FC=1C(=NC=CC1)S(=O)(=O)N | C5H5FN2O2S
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(2-fluoroethoxy)-pyrid-2-ylsulfonamide | 5.88 g | FCCOC=1C(=NC=CC1)S(=O)(=O)N | C7H9FN2O3S
